US08629157B2
Step 1: Synthesis of 1,1-dioxo-1λ6-thiomorpholine-4-carbonyl chloride
Thiomorpholine 1,1-dioxide (1 g; 7.397 mmol) is dispersed in tetrahydrofuran (50 mL) followed by the addition of triethylamine (1.238 mL; 8.88 mmol) and 20% phosgene in toluene (11.743 mL; 22.2 mmol). The reaction mixture is stirred at room temperature overnight. After this time, the mixture is diluted with ether and filtered through Celite®. The Celite® is washed with ether several times and the combined filtrates are concentrated in vacuo to afford title compound as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) ppm 3.15 (4H, m), 4.13 (2H, s), 4.24 (2H, s).

reactant | Thiomorpholine 1,1-dioxide | 7.397 mmol, 1 g | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | triethylamine | 8.88 mmol, 1.238 mL | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 22.2 mmol, 11.743 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1,1-dioxo-1λ6-thiomorpholine-4-carbonyl chloride | O=S1(CCN(CC1)C(=O)Cl)=O | C5H8ClNO3S
